US09145392B2
5-Bromo-4-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine (“4”)
The title compound was prepared in an analogous manner as 5-Bromo-6-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using 5-bromo-4-chloropyrimidine instead of 5-bromo-6-chloropyrimidin-4-amine. LC-MS: (M+1=452, obsd.=452).

reactant | 5-Bromo-6-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | BrC=1C(=NC=NC1N1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F)N | C19H18BrF3N6
reactant | 5-bromo-4-chloropyrimidine | BrC=1C(=NC=NC1)Cl | C4H2BrClN2
product | 5-Bromo-4-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine | BrC=1C(=NC=NC1)N1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C19H17BrF3N5
